US07332485B2
1-(Benzyloxyamino-Methyl)-Cyclohexanecarboxylic Acid
To a solution of 1-(benzyloxyimino-methyl)-cyclohexanecarboxylic acid (1.59 g, 6.08 mmol) in methanol (40 mL) at 0° C. under a nitrogen atmosphere was added a trace amount of methyl orange. A solution of saturated methanolic HCl was added until a persisten red color was observed. Sodium cyanoborohydride (0.42 g, 6.69 mmol) was added portionwise alternately with methanolic HCl to maintain the red color. The reaction mixture was maintained at 0° C. for an additional 3 h and the volatiles were removed in vacuo to yield the title compounds as a pale, yellow oil that was used without further purification. MH+264.

reactant | 1-(benzyloxyimino-methyl)-cyclohexanecarboxylic acid | 6.08 mmol, 1.59 g | C(C1=CC=CC=C1)ON=CC1(CCCCC1)C(=O)O | C15H19NO3
reactant | methyl orange | CN(C)C=1C=CC(=CC1)N=NC=2C=CC(=CC2)S(=O)(=O)O | C14H15N3O3S
reactant | HCl | Cl | ClH
reactant | persisten | CCC1(COC(=O)NC1=O)CC | C8H13NO3
reactant | Sodium cyanoborohydride | 6.69 mmol, 0.42 g | C(#N)[BH3-].[Na+]
solvent | methanol | 40 mL | CO | CH4O
product | 1-(Benzyloxyamino-Methyl)-Cyclohexanecarboxylic Acid | C(C1=CC=CC=C1)ONCC1(CCCCC1)C(=O)O | C15H21NO3
